US06127414
(a) (R)-N2 -(Boc)-N5 -(Cbz)-N-methyl-(R)-N-(1-phenylethyl)ornithine amide
Prepared according to the method described in Example 1(a) above from Nα -Boc-Nδ -Cbz-(R)-ornithine (5.0 g; 13 mmol), BOP reagent (6.0 g; 13 mmol), HOBT (1.8 g; 13 mmol), DiPEA (7.1 mL; 40 mmol) and acetonitrile:CH2Cl2 (1:1; 100 mL) followed by (R)-(+)-N,α-dimethylbenzylamine (2.0 mL; 13 mmol), then stirred overnight. After work up the crude product was purified by chromatography on silica gel with EtOAc to provide 6.0 g (91%) of the sub-title compound.

reactant | Nα -Boc-Nδ -Cbz-(R)-ornithine | 13 mmol, 5.0 g | C(=O)(OC(C)(C)C)N[C@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C18H26N2O6
reactant | BOP reagent | 13 mmol, 6.0 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 13 mmol, 1.8 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DiPEA | 40 mmol, 7.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-(+)-N,α-dimethylbenzylamine | 13 mmol, 2.0 mL | CN[C@@H](C1=CC=CC=C1)C | C9H13N
solvent | acetonitrile CH2Cl2 | 100 mL | C(C)#N.C(Cl)Cl
product | (R)-N2 -(Boc)-N5 -(Cbz)-N-methyl-(R)-N-(1-phenylethyl)ornithine amide | 6.0 g, 91% | C(=O)(OC(C)(C)C)N[C@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)N([C@H](C)C1=CC=CC=C1)C | C27H37N3O5
